US06479487B1
1-(3-Chlorobenzyl)-4-piperidone oxime is prepared from 1-(3-chlorobenzyl)-4-piperidone and hydroxylamine hydrochloride essentially as described above in Example 38, Scheme C, step b.

reactant | 1-(3-chlorobenzyl)-4-piperidone | ClC=1C=C(CN2CCC(CC2)=O)C=CC1 | C12H14ClNO
reactant | hydroxylamine hydrochloride | Cl.NO
product | 1-(3-Chlorobenzyl)-4-piperidone oxime | ClC=1C=C(CN2CCC(CC2)=NO)C=CC1 | C12H15ClN2O
